US07338973B2
2,2-dimethyl-propionic acid 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl-ester
6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol (1.01 g, 3.99 mmoL) in CH2Cl2 (5 mL) was treated with pyridine (0.387 mL, 4.788 mmoL) followed by PivCl (0.541 mL, 4.389 mmoL) at 0° C. The reaction mixture was slowly warmed to room temperature over 2 hours. The reaction mixture was then partitioned between CH2Cl2 and saturated NH4Cl. The aqueous phase was extracted two times with CH2Cl2. The organic layer from each extraction was combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the oil) was then purified by column chromatography (silica gel, hexanes:EtOAc 4:1 as eluent) to yield the title compound as a pale foam.

reactant | 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol | 1.01 g | C1=CC=CC2=C1C=1NC3=CC=C(C=C3C1CS2)O | C15H11NOS
reactant | pyridine | 0.387 mL | N1=CC=CC=C1 | C5H5N
reactant | PivCl | 0.541 mL | C(=O)(C(C)(C)C)Cl | C5H9ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-propionic acid 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl-ester | C1=CC=CC2=C1C=1NC3=CC=C(C=C3C1CS2)OC(C(C)(C)C)=O | C20H19NO2S
